US04331670
Preparation of N-(3,5-dichloro-6-methyl-2-pyridyl)2,6-dinitro-3-chloro-4-trifluoromethylaniline
In 30 ml. of dimethylformamide, 1.8 g. of 2-amino-3,5-dichloro-6-methylpyridine was dissolved in 0.67 g. of powdery potassium hydroxide was gradually added with stirring. After the addition, a solution of 3.07 g. of 2,4-dichloro-3,5-dinitrobenzotrifluoride in 10 ml. of dimethylformamide was added dropwise at room temperature and the reaction was continued for about 3 hours. The reaction mixture was acidified with conc. HCl and was poured into water. The precipitate was filtered and recrystallized from methanol to obtain 2.96 g. of the object compound having a melting point of 128° to 130° C.

reactant | 2-amino-3,5-dichloro-6-methylpyridine | NC1=NC(=C(C=C1Cl)Cl)C | C6H6Cl2N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(3,5-dichloro-6-methyl-2-pyridyl)2,6-dinitro-3-chloro-4-trifluoromethylaniline | ClC=1C(=NC(=C(C1)Cl)C)NC1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-] | C13H6Cl3F3N4O4
